US04067723
A mixture of 2-methylbenzyl chloride [prepared as described by Voronkov and Popova, Latv. P.S.R. Zinat. Akad. Vestis Kim. Sev. 1970(5), 595; 62 g.], methyl 2-furoate (114 g.) and anhydrous ferric chloride (1.4 g.) in dry carbon tetrachloride (120 ml.) was heated on a steam bath under relfux for 18 hours. The solution was then evapoated to dryness. The residue was dissolved in chloroform, washed with 2N hydrochloric acid and water, dried over magnesium sulphate and distilled to give methyl 5-(2-methylbenzyl)-2-furoate (50 g.) in the form of a yellow coloured oil, b.p. 140°-170° C./0.1-0.5 mm.Hg.

reactant | 2-methylbenzyl chloride | 62 g | CC1=C(CCl)C=CC=C1 | C8H9Cl
reactant | methyl 2-furoate | 114 g | O1C(=CC=C1)C(=O)OC | C6H6O3
solvent | carbon tetrachloride | 120 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-(2-methylbenzyl)-2-furoate | 50 g | CC1=C(CC2=CC=C(O2)C(=O)OC)C=CC=C1 | C14H14O3
